US04154935
By substituting 1-(3-acetylthio-2-trifluoromethylpropanoyl)-4,4-difluoro-L-proline for the 1-(3-acetylthio-2-trifluoromethylpropanoyl)-L-proline in the procedure of Example 4, 1-(3-mercapto-2-trifluoromethylpropanoyl)-4,4-difluoro-L-proline is obtained.

reactant | 1-(3-acetylthio-2-trifluoromethylpropanoyl)-4,4-difluoro-L-proline | C(C)(=O)SCC(C(=O)N1[C@H](C(=O)O)CC(C1)(F)F)C(F)(F)F | C11H12F5NO4S
reactant | 1-(3-acetylthio-2-trifluoromethylpropanoyl)-L-proline | C(C)(=O)SCC(C(=O)N1[C@H](C(=O)O)CCC1)C(F)(F)F | C11H14F3NO4S
product | 1-(3-mercapto-2-trifluoromethylpropanoyl)-4,4-difluoro-L-proline | SCC(C(=O)N1[C@H](C(=O)O)CC(C1)(F)F)C(F)(F)F | C9H10F5NO3S
